US07144881B2
Step B: (R)-2-Amino-2-naphthalen-2-yl-ethanol hydrochloride
(R)-(2-Hydroxy-1-naphthalen-2-yl-ethyl)-carbamic acid tert-butyl ester (2.5 g) and 9 mL of 4 N HCl in ethyl acetate at 50° C. was stirred for 2 h. After concentration, the residue was neutralized with 10 N NaOH and extracted with methylene chloride. The organic layer was washed with brine, dried over Na2SO4, and concentrated to give the title compound (1.2 g) as a solid which was used in the next step without further purification.

reactant | (R)-(2-Hydroxy-1-naphthalen-2-yl-ethyl)-carbamic acid tert-butyl ester | 2.5 g | C(C)(C)(C)OC(N[C@@H](CO)C1=CC2=CC=CC=C2C=C1)=O | C17H21NO3
reactant | HCl | 4 N, 9 mL | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)-2-Amino-2-naphthalen-2-yl-ethanol hydrochloride | 1.2 g | Cl.N[C@@H](CO)C1=CC2=CC=CC=C2C=C1 | InChI=1S/C12H13NO.ClH/c13-12(8-14)11-6-5-9-3-1-2-4-10(9)7-11;/h1-7,12,14H,8,13H2;1H/t12-;/m0./s1
